US07456289B2
A solution of methylzinc chloride in THF (2 M) (9 mL, 12 mmol) was added to 6-chloro-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.600 g, 2.05 mmol) and Pd(PPh3)4 (0.095 g, 0.08 mmol) in THF (30 mL). The mixture was refluxed for 40 h, cooled to 0° C., quenched with water and extracted with Et2O. The organic layer was concentrated and the residue was purified over a silica gel column eluting with EtOAc/hexane (1:5) to give N-protected 6-methyl-7-azaindole (0.495 g, 88%).

reactant | methylzinc chloride | [Cl-].C[Zn+]
reactant | 6-chloro-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 2.05 mmol, 0.600 g | ClC1=CC=C2C(=N1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C13H9ClN2O2S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.08 mmol, 0.095 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 12 mmol, 2 M, 9 mL | C1CCOC1 | C4H8O
product | 6-methyl-7-azaindole | 0.495 g, 88% | CC1=CC=C2C=CNC2=N1 | C8H8N2
